US05025031
Sulfamic acid 4-(2-methyl-1H-imidazol-1-yl)phenyl ester monohydrochloride
To a chilled solution of acetonitrile (50 ml) and chlorosulfonyl isocyanate (12.16 g, 0.086 mole) was added benzyl alcohol (9.29 g, 0.086 mole) while maintaining the temperature between 10°-15° C. The reaction stirred at room temperature 1.5 hr and 4-(2-methyl-1H-imidazol-1-yl)phenol (10.0 g, 0.057 mole) added in small portions) while maintaining the temperature below 20° C. The reaction was stirred overnight and its progress checked by thin layer chromatography (8:1:1 ethyl acetate/methanol/ammonium hydroxide). Once the reaction had gone to completion, isopropyl alcohol (3.42 g, 0.057 mole) was added and reaction stirred an additional hour. The solution was concentrated and the residue dissolved in methanol (150 ml) and the solution subjected to catalytic hydrogenation using 5% palladium on carbon catalyst. The solution was filtered and the filtrate concentrated, replacing the methanol with isopropyl alcohol. White crystals precipitated and were collected and dried (9.8 g, 59.5%, mp 197°-200° C.).

reactant | chlorosulfonyl isocyanate | 0.086 mole, 12.16 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | benzyl alcohol | 0.086 mole, 9.29 g | C(C1=CC=CC=C1)O | C7H8O
reactant | 4-(2-methyl-1H-imidazol-1-yl)phenol | 0.057 mole, 10.0 g | CC=1N(C=CN1)C1=CC=C(C=C1)O | C10H10N2O
reactant | ethyl acetate methanol ammonium hydroxide | C(C)(=O)OCC.CO.[OH-].[NH4+]
reactant | isopropyl alcohol | 0.057 mole, 3.42 g | C(C)(C)O | C3H8O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | Sulfamic acid 4-(2-methyl-1H-imidazol-1-yl)phenyl ester monohydrochloride | Cl.CC=1N(C=CN1)C1=CC=C(C=C1)OS(N)(=O)=O | InChI=1S/C10H11N3O3S.ClH/c1-8-12-6-7-13(8)9-2-4-10(5-3-9)16-17(11,14)15;/h2-7H,1H3,(H2,11,14,15);1H
